US08039503B2
E5.2. Synthesis of spiro[naphtho[1,2-b][1,4]oxathiine-2,4′-piperidinium]-5,6-dione chloride (Compound 13)
To a solution of tert-butyl 4-{[(3,4-dioxo-3,4-dihydronaphthalen-1-yl)thio]methyl}-4-hydroxypiperidine-1-carboxylate (3.8 g, 0.942 mmol) in 50 ml dichloromethane which was cooled to 0° C. was added trifluoroacetic acid (200 ml). The reaction mixture was stirred at room temperature for 30 hours and the solvent removed under reduced pressure. The mixture was dissolved in dichloromethane (150 ml) and poured over a 0° C. mixture of saturated sodium carbonate (500 ml) and water (200 ml). Methanol (500 ml) was then added to the reaction mixture and allowed to stir overnight. The mixture was extracted with dichloromethane (4×400 ml). The organic extracts were combined and washed with a mixture of 2.0M sodium carbonate and brine (5×500 ml). The organic layer was separated, dried with Na2SO4, and concentrated under reduced pressure to give a purple solid. To a stirred solution of the purple solid in dichloromethane (100 ml), 4.0 M HCl in dioxane (20 ml) was added dropwise. The precipitate was filtered, washed with dichloromethane and ether, and recrystallized from ethanol to give a purple crystalline solid (1.84 g, 58%). M.p.=229-232° C.; 400 MHz 1H NMR (DMSO-d6) δ: 9.19 (br. s, 2H), 7.90-7.86 (m, 1H), 7.84-7.80 (m, 1H), 7.76-7.71 (m, 1H), 7.58-7.53 (m, 1H), 3.33-3.25 (m, 2H), 3.16-3.07 (m, 4H), 2.22-2.15 (m, 2H), 2.20-1.50 (m, 2H); LCMS: 302 [M+H].

reactant | tert-butyl 4-{[(3,4-dioxo-3,4-dihydronaphthalen-1-yl)thio]methyl}-4-hydroxypiperidine-1-carboxylate | 0.942 mmol, 3.8 g | O=C1C=C(C2=CC=CC=C2C1=O)SCC1(CCN(CC1)C(=O)OC(C)(C)C)O | C21H25NO5S
reactant | trifluoroacetic acid | 200 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | HCl | 4.0 M | Cl | ClH
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | dioxane | 20 ml | O1CCOCC1 | C4H8O2
product | spiro[naphtho[1,2-b][1,4]oxathiine-2,4′-piperidinium]-5,6-dione chloride | 1.84 g, 58% | [Cl-].[NH2+]1CCC2(CC1)CSC1=C(O2)C2=CC=CC=C2C(C1=O)=O | InChI=1S/C16H15NO3S.ClH/c18-12-10-3-1-2-4-11(10)14-15(13(12)19)21-9-16(20-14)5-7-17-8-6-16;/h1-4,17H,5-9H2;1H
